US08754229B2
Preparation of Methyl 4-amino-6-chloro-5-fluoro-3-(methylthio)picolinate (Compound 74)
Methyl 4-amino-6-chloro-5-fluoro-3-iodopicolinate (1.5 g, 4.6 mmol), tri-n-butylmethylthiostannane (2.5 g, 7.3 mmol), his (triphenylphosphine) palladium (II) chloride (320 mg, 0.46 mmol) and copper (I) iodide (90 mg, 0.46 mmol) were combined 15 ml dry, deaerated DMF and heated to 80° C. After 3 h another 2.5 g portion of the stannane were added and heating was continued for 18 h. After cooling, the mixture was stirred with 25 ml 10% potassium bifluoride solution for 20 ml. The heterogeneous mixture was stirred with 100 ml ethyl acetate and filtered through diatomaceous earth to remove curdy solids. The separated organic phase was washed twice with 15 ml water, 15 ml sat. NaCl, dried (Na2SO3) and evaporated. The product was purified by silica gel chromatography eluting with a 0-25% ethyl acetate-DCM gradient. The gummy residue was stirred with hexane to produce the written product as a white solid, 800 mg. Mp: 75-77° C. 1H NMR (400 MHz, CDCl3) δ 5.35 (s, 2H), 3.96 (s, 3H), 2.33 (s, 3H). 19F NMR (376 MHz, CDCl3) δ −138.81. EIMS m/z 250.

reactant | Methyl 4-amino-6-chloro-5-fluoro-3-iodopicolinate | 4.6 mmol, 1.5 g | NC1=C(C(=NC(=C1F)Cl)C(=O)OC)I | C7H5ClFIN2O2
reactant | tri-n-butylmethylthiostannane | 7.3 mmol, 2.5 g | C(CCC)[Sn](SC)(CCCC)CCCC
catalyst | (triphenylphosphine) palladium (II) chloride | 0.46 mmol, 320 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper (I) iodide | 0.46 mmol, 90 mg | [Cu]I
product | Methyl 4-amino-6-chloro-5-fluoro-3-(methylthio)picolinate | NC1=C(C(=NC(=C1F)Cl)C(=O)OC)SC | C8H8ClFN2O2S
